US08686044B2
Preparation of 4-(perfluoropropan-2-yl)aniline
100 g (1.02 mol) of aniline, 230 g (1.12 mol) of 85% sodium hydrosulfite, and 35.1 g (0.100 mol) of tetrabutylammonium hydrogen sulfate were charged to a mixed solution of 1500 ml of t-butyl methyl ether and 1500 ml of water, and 94.7 g (1.12 mol) of sodium hydrogen carbonate was added thereto. 350 g (1.12 mol) of heptafluoroisopropyl iodide was added dropwise thereto at room temperature, followed by stirring at room temperature for 6 hours. After the liquid separation, the organic layer was washed with 1 M hydrochloric acid, water, and a saturated aqueous sodium hydrogen carbonate solution, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and 500 ml of ethyl acetate was charged thereto. 255 g (1.02 mol) of a 4 M hydrogen chloride/ethyl acetate solution was added dropwise thereto, followed by stirring at room temperature for 30 minutes and at 5° C. for 1 hour. The precipitated solid was separated by filtration, and the solid was charged to 1000 ml of ethyl acetate, adjusted to pH 8 to 9 by the addition of 1000 ml of a saturated aqueous sodium hydrogen carbonate solution at 20° C. or lower, and subjected to liquid separation. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure to prepare 188 g (yield 71%) of a target compound.

reactant | aniline | 1.02 mol, 100 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium hydrosulfite | 1.12 mol, 230 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 1.12 mol, 94.7 g | C(O)([O-])=O.[Na+]
reactant | heptafluoroisopropyl iodide | 1.12 mol, 350 g | FC(C(C(F)(F)F)(F)I)(F)F | C3F7I
catalyst | tetrabutylammonium hydrogen sulfate | 0.100 mol, 35.1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1500 ml | O | H2O
solvent | t-butyl methyl ether | 1500 ml | COC(C)(C)C | C5H12O
product | 4-(perfluoropropan-2-yl)aniline | 188 g, yield 71% | FC(C(C(F)(F)F)(C1=CC=C(N)C=C1)F)(F)F | C9H6F7N
